US04013473
130 g of cyclopentene are added dropwise to 108 g of m-cresol and 10 g of an acid-activated fuller's earth at 140° C. The mixture is stirred at this temperature for 1 h. After removal of the catalyst by filtration the mixture is fractionated. 35 g of 3-methyl-6-cyclopentylphenol boiling at 113° C (1.4 mm Hg) are obtained. A further fraction (112 g) boiling at 154° C (0.9 mm Hg) consists of 3-methyl-4,6-dicyclopentylphenol (melting point: 45° C).

reactant | cyclopentene | 130 g | C1=CCCC1 | C5H8
reactant | m-cresol | 108 g | C1=C(C=CC=C1O)C | C7H8O
product | 3-methyl-6-cyclopentylphenol | 35 g | CC=1C=C(C(=CC1)C1CCCC1)O | C12H16O
